US07807720B2
(S)-2-(4-fluoro-3,5-dimethylbenzyl)-6-(4-fluorobenzylamino)-N-hydroxyhexanamide (Compound 168117)
To a solution of (R)-3-((S)-2-[4-fluoro-3,5-dimethylbenzyl)-6-(4-fluorobenzylamino)-hexanoyl]-4-benzyloxazolidin-2-one (0.030 g, 0.0561 mmol) in 2.5 mL of THF/MeOH/50% NH2OH—H2O (2:2:1), was added KCN (0.001 g, 0.015 mmol). After stirring at room temperature for overnight, the reaction mixture was acidified with concentrated HCl to pH=2 and filtered. The product was isolated by RP-HPLC eluting with 20-100% acetonitrile (0.025% TFA)/water (0.025% TFA) to give the title compound as an off-white solid (0.005 g, 23% yield). LC-MS: tR=4.8 min, m/z 391 (M+H)+, 1H NMR (300 MHz, CD3OD) δ 1.27-1.38 (m, 2H), 1.40-1.57 (m, 2H), 1.58-1.75 (m, 2H), 2.19 (s, 6H), 2.20-2.31 (m, 1H), 2.52-2.66 (m, 1H), 2.70-2.82 (m, 1H), 3.00 (t, J=7.91 Hz, 2H), 4.17 (s, 2H), 6.82 (d, J=6.74 Hz, 2H), 7.20 (t, J=8.64 Hz, 2H), 7.51 (dd, J=8.20, 5.27 Hz, 2H).

reactant | (R)-3-((S)-2-[4-fluoro-3,5-dimethylbenzyl)-6-(4-fluorobenzylamino)-hexanoyl]-4-benzyloxazolidin-2-one | 0.0561 mmol, 0.030 g | FC1=C(C=C(C[C@@H](C(=O)N2C(OC[C@H]2CC2=CC=CC=C2)=O)CCCCNCC2=CC=C(C=C2)F)C=C1C)C | C32H36F2N2O3
reactant | KCN | 0.015 mmol, 0.001 g | [C-]#N.[K+]
reactant | HCl | Cl | ClH
reactant | THF MeOH | 2.5 mL | C1CCOC1.CO
product | (S)-2-(4-fluoro-3,5-dimethylbenzyl)-6-(4-fluorobenzylamino)-N-hydroxyhexanamide | 0.005 g, 23% yield | FC1=C(C=C(C[C@@H](C(=O)NO)CCCCNCC2=CC=C(C=C2)F)C=C1C)C | C22H28F2N2O2
